US04238412
295 g (1 mol) of 3-chloro-benzoic acid anhydride were mixed with 65 g of potassium cyanide in a 750 ml three-necked flask and the mixture was slowly warmed to 230° C. in the course of 120 minutes. The reaction product was removed from the Na salt of 3-chlorobenzoic acid by applying a vacuum. The fractional distillation gave 160 g (97% of theory) of 3-chlorobenzoyl cyanide; boiling point 118°-120° C. under 14 mm Hg; melting point 146°-148° C. (from wash benzine).

reactant | 3-chloro-benzoic acid anhydride | 1 mol, 295 g | ClC=1C=C(C(=O)OC(C2=CC(=CC=C2)Cl)=O)C=CC1 | C14H8Cl2O3
reactant | potassium cyanide | 65 g | [C-]#N.[K+]
product | 3-chlorobenzoyl cyanide | 160 g, 97% | ClC=1C=C(C(=O)C#N)C=CC1 | C8H4ClNO
